US08614327B2
Synthesis of 4-oxo-5-(trifluoromethyl)-1,4-dihydroquinoline-3-carboxylic acid
Ethyl 8-chloro-4-oxo-5-(trifluoromethyl)-1,4-dihydroquinoline-3-carboxylate (500 mg, 1.56 mmol) was dissolved in NaOH (16 mL of 2.0 M, 31 mmol) and ethanol (3 mL) and heated to 100° C. for 2 h. The clear, light yellow solution was cooled to 50° C., the reaction mixture was degassed with N2, and then treated with 10% Pd/C (65 mg, 0.03 mmol). The reaction mixture was heated at 70° C. for 3 h under an atmosphere of H2. The reaction mixture was cooled and then filtered, acidified with conc. HCl until a white precipitate was formed, then allowed to stir overnight. The reaction mixture was filtered, washed with water and dried with CH3CN to yield a white powder (350 mg, 87%). 1H NMR (400 MHz, DMSO-d6) δ 15.26 (s, 1H), 13.68 (s, 1H), 8.98 (s, 1H), 8.16-8.09 (m, 1H), 8.08-7.97 (m, 2H).

reactant | Ethyl 8-chloro-4-oxo-5-(trifluoromethyl)-1,4-dihydroquinoline-3-carboxylate | 1.56 mmol, 500 mg | ClC=1C=CC(=C2C(C(=CNC12)C(=O)OCC)=O)C(F)(F)F | C13H9ClF3NO3
reactant | NaOH | 31 mmol, 2.0 M, 16 mL | [OH-].[Na+]
catalyst | Pd/C | 0.03 mmol, 65 mg | [Pd] | Pd
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-oxo-5-(trifluoromethyl)-1,4-dihydroquinoline-3-carboxylic acid | 350 mg, 87% | O=C1C(=CNC2=CC=CC(=C12)C(F)(F)F)C(=O)O | C11H6F3NO3
